US06420142B1
6.37 g of citric acid monohydrate are dissolved in 300 ml of completely deionized water and adjusted to a pH of 6.6 with 11.33 g of 32% aqueous sodium hydroxide solution. 300 ml of methyl acetate are subsequently added and 20.11 g of a starting material mixture which consists of 53.5 area percent of rutin, 39.8 area percent of isoquercetin and 0.4 area percent of quercetin (mother liquor residue from rutin production), and 1.11 g of naringinase are introduced under a nitrogen atmosphere. The reaction mixture is then stirred (200 revolutions/minute) at a reaction temperature of 40° C. for 46 h. After customary work-up, rhamnose and 14.18 g of yellow crystals are obtained. The analysis of the yellow crystals by means of HPLC results in the following composition:

reactant | citric acid monohydrate | 6.37 g | O.C(CC(O)(C(=O)O)CC(=O)O)(=O)O
reactant | sodium hydroxide | 11.33 g | [OH-].[Na+]
reactant | methyl acetate | 300 ml | C(C)(=O)OC | C3H6O2
reactant | rutin | C[C@H]1[C@@H]([C@H]([C@H]([C@@H](O1)OC[C@@H]2[C@H]([C@@H]([C@H]([C@@H](O2)OC3=C(OC=4C=C(C=C(C4C3=O)O)O)C=5C=CC(=C(C5)O)O)O)O)O)O)O)O | C27H30O16
reactant | isoquercetin | C1=CC(=C(C=C1C2=C(C(=O)C=3C(=CC(=CC3O2)O)O)O[C@H]4[C@@H]([C@H]([C@@H]([C@H](O4)CO)O)O)O)O)O | C21H20O12
reactant | quercetin | C1=CC(=C(C=C1C2=C(C(=O)C=3C(=CC(=CC3O2)O)O)O)O)O | C15H10O7
solvent | water | O | H2O
product | rhamnose | O=C[C@H](O)[C@H](O)[C@@H](O)[C@@H](O)C | C6H12O5
